US06207862B1
Progress of the reaction is monitored by thin layer chromatography (Silica gel plates, eluent methylene chloride; visualization by dipping in a solution of 5% anisaldehyde in ethanol and heating). When the reaction is complete as judged by thin layer chromatography, the reaction mixture is adjusted to a pH of 13 with 10 M sodium hydroxide and then extracted 3 times with 250 ml of methylene chloride. The pH of the aqueous mixture is then adjusted to 3 with concentrated HCl, followed by continuous extraction with 1 liter of ethyl acetate for 24 hours. The ethyl acetate extract is dried over anhydrous magnesium sulfate and evaporated under reduced pressure to yield (R)-2-phenylbutyrolactone as a yellowish solid.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | sodium hydroxide | 10 M | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | (R)-2-phenylbutyrolactone | C1(=CC=CC=C1)[C@@H]1C(=O)OCC1 | C10H10O2
